US07354932B2
To a solution of 2-{1-[2-(tert-butyldimethylsilyloxy)-ethyl]-cyclopropylmethyl}-isoindole-1,3-dione (0.24 g, 0.68 mmol) in THF (3 mL) was added 1.0 M HCl (3 mL). The resultant solution was stirred, at room temperature, for 3 hours. The mixture was diluted with saturated aqueous NH4Cl (10 mL) and extracted with CH2Cl2 (3×20 mL). The combined organic extracts were dried (Na2SO4) and concentrated. The crude material was purified by column chromatography on silica gel (2:1 hexanes-ethyl acetate) and provided 0.146 g (88%) of 2-[1-(2-hydroxy-ethyl)-cyclopropylmethyl]-isoindole-1,3-dione as a white solid. 1H NMR (CDCl3) δ 0.29-0.35 (m, 2H), 0.59-0.62 (m, 2H), 1.41 (t, 2H, J=6.6 Hz), 2.80 (br s, 1H), 3.53 (s, 2H), 3.76 (t, 2H, J=6.6 Hz), 7.59-7.63 (m, 2H), 7.69-7.74 (m, 2H);

reactant | 2-{1-[2-(tert-butyldimethylsilyloxy)-ethyl]-cyclopropylmethyl}-isoindole-1,3-dione | 0.68 mmol, 0.24 g | [Si](C)(C)(C(C)(C)C)OCCC1(CC1)CN1C(C2=CC=CC=C2C1=O)=O | C20H29NO3Si
reactant | HCl | 1.0 M, 3 mL | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | NH4Cl | 10 mL | [NH4+].[Cl-]
product | 2-[1-(2-hydroxy-ethyl)-cyclopropylmethyl]-isoindole-1,3-dione | 0.146 g, 88% | OCCC1(CC1)CN1C(C2=CC=CC=C2C1=O)=O | C14H15NO3
